US04139363
A 5.7-g (0.1-mol) sample of methyl isocyanate was added dropwise to a solution of 15.0 g (0.1 mol) 1-acetyl-2-phenyl-hydrazine and 2 drops triethylamine in 200 ml dichloromethane. The resulting reaction mixture was stirred for 2 hours at about 25° C., refluxed for about 16 hours and evaporated under reduced pressure to give 21 g of crude 1-acetyl-2-phenyl-4-methyl semicarbazide, as a yellow solid.

reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | 1-acetyl-2-phenyl-hydrazine | 0.1 mol, 15.0 g | C(C)(=O)NNC1=CC=CC=C1 | C8H10N2O
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-acetyl-2-phenyl-4-methyl semicarbazide | 21 g | C(C)(=O)NN(C(=O)NC)C1=CC=CC=C1 | C10H13N3O2
